US05202330
a) 1,4-Dihydro-2-[[(4-methoxyphenyl)methyl]thio]-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, 1,1-dimethylethyl ester, monohydrochloride
A solution of 2-[(3-nitrophenyl)methylene]-3-oxobutanoic acid, 1,1-dimethylethyl ester (28 g., 96.12 mmole) in dimethylformamide (98 ml.) is treated with S-(4-methoxybenzyl)thiopseudourea, hydrochloride (22.37 g., 96.12 mmole) and sodium acetate (7.9 g., 96.12 mmole). The mixture is heated at 60° overnight, diluted with ether, and filtered to remove sodium chloride. The filtrate is washed with water (150 ml.), sodium bicarbonate (150 ml.), and brine. The organic layer is dried over anhydrous magnesium sulfate, filtered, and stripped to give an oil. This oil is dissolved in dichloromethane (300 ml.) and treated with methanolic hydrochloric acid (1 eq., 96.12 mmole) to crystallize out 41.74 g. of product. A second crop of 2.77 g. is collected by reducing the volume of the mother liquor and cooling at 0° overnight to give a total of 44.51 g. of white solid 1,4-dihydro-2-[[(4-methoxyphenyl)methyl]thio]-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, 1,1-dimethylethyl ester; m.p. 192°. TLC (silica gel; ethyl acetate:hexanes, 1:2 Rf =0.51.

reactant | 2-[(3-nitrophenyl)methylene]-3-oxobutanoic acid, 1,1-dimethylethyl ester | 96.12 mmole, 28 g | [N+](=O)([O-])C=1C=C(C=CC1)C=C(C(=O)OC(C)(C)C)C(C)=O | C15H17NO5
reactant | S-(4-methoxybenzyl)thiopseudourea, hydrochloride | 96.12 mmole, 22.37 g | Cl.COC1=CC=C(CSC(N)=N)C=C1
reactant | sodium acetate | 96.12 mmole, 7.9 g | C(C)(=O)[O-].[Na+]
reactant | hydrochloric acid | 96.12 mmole, 1 eq. | Cl | ClH
reactant | 1,4-dihydro-2-[[(4-methoxyphenyl)methyl]thio]-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, 1,1-dimethylethyl ester | COC1=CC=C(C=C1)CSC=1NC(=C(C(N1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC(C)(C)C)C | C24H27N3O5S
solvent | dimethylformamide | 98 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,4-Dihydro-2-[[(4-methoxyphenyl)methyl]thio]-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, 1,1-dimethylethyl ester, monohydrochloride | Cl.COC1=CC=C(C=C1)CSC=1NC(=C(C(N1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC(C)(C)C)C | InChI=1S/C24H27N3O5S.ClH/c1-15-20(22(28)32-24(2,3)4)21(17-7-6-8-18(13-17)27(29)30)26-23(25-15)33-14-16-9-11-19(31-5)12-10-16;/h6-13,21H,14H2,1-5H3,(H,25,26);1H
